US04535183
Ethyl 4-(4-benzofuranyloxymethyl)benzoate (1.84 g, 0.004 M) was dissolved in absolute ethanol (180 ml) and cooled to -65° C. with stirring and exclusion of moisture. Ozonised air was bubbled through the solution at a rate of 20 liters/hr for 1 hr. Nitrogen was then bubbled through the solution (5 mins) to remove excess ozone before the addition of dimethyl sulphide (1.2 ml). The mixture was allowed to warm to room temperature overnight (16 hr.). The solvent was removed in vacuo and the residue recrystallised from ethyl acetate-petrol to give ethyl 4-(2-formyl-3-hydroxyphenoxymethyl)benzoate, m.p. 105°-107° C. (Found: C, 67.59; H, 5.21. C17H16O5 requires C, 67.99; H, 5.37%).

reactant | Ethyl 4-(4-benzofuranyloxymethyl)benzoate | 0.004 M, 1.84 g | O1C=CC2=C1C=CC=C2OCC2=CC=C(C(=O)OCC)C=C2 | C18H16O4
reactant | ethanol | 180 ml | C(C)O | C2H6O
product | ethyl 4-(2-formyl-3-hydroxyphenoxymethyl)benzoate | C(=O)C1=C(OCC2=CC=C(C(=O)OCC)C=C2)C=CC=C1O | C17H16O5
